US08217066B2
Step 1: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]acetic acid ethyl ester:
[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-acetic acid (0.405 g, 1.37 mmol) in EtOH (4 mL) was treated with thionyl chloride (0.2 mL, 2.73 mmol) and the reaction was stirred at room temperature until no starting material was seen by analytical TLC. After basic workup the crude material was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound.

reactant | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-acetic acid | 1.37 mmol, 0.405 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CC(=O)O | C12H10BrNO3
reactant | thionyl chloride | 2.73 mmol, 0.2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | EtOH | 4 mL | CCO | C2H6O
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]acetic acid ethyl ester | C(C)OC(CC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C14H14BrNO3
